US05451601
0.17 g of carbonyldiimidazole is added to a solution, cooled to +4° C., of 0.19 g of (2-dimethylaminophenyl)-acetic acid in 15 cm3 of dry dichloromethane. The mixture is stirred for one hour at +4° C. and then a solution of 0.35 g (3aR,7R,7aR)-7-chloro-4,4-diphenylperhydro-isoindole hydrochloride in 10 cm3 of dry dichloromethane is then added followed by a solution of 0.15 cm3 of triethylamine in 10 cm3 of dry dichloromethane. The reaction mixture is stirred at room temperature for 20 hours and then diluted with 120 cm3 of dichloromethane, washed with 80 cm3 of water and then with a saturated aqueous solution of sodium chloride, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.06 mm, diameter 2 cm, height 22 cm), eluting under a nitrogen pressure of 0.4 bar with an ethyl acetate and cyclohexane mixture (75/25 by volume) and collecting fractions of 20 cm3. Fractions 6 to 9 are pooled and concentrated to dryness under reduced pressure (2.7 kPa). The product, which is obtained in the form of a base, is converted to the hydrochloride by dissolving in 25 cm3 of ethyl ether, followed by the addition of 5 cm3 of a 3.2N solution of hydrochloric acid to the ethyl ether, washing with ethyl ether and drying. 0.14 g of (3aR,7R,7aR)-7-chloro-2-[(2-dimethylamino-phenyl)acetyl]-4,4-diphenylperhydroisoindole hydrochloride is obtained in the form of white crystals; melting point 190° C.

reactant | carbonyldiimidazole | 0.17 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (2-dimethylaminophenyl)-acetic acid | 0.19 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | (3aR,7R,7aR)-7-chloro-4,4-diphenylperhydro-isoindole hydrochloride | 0.35 g | Cl.Cl[C@@H]1CCC([C@@H]2CNC[C@H]12)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloride | Cl | ClH
solvent | dichloromethane | 15 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 10 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 120 cm3 | ClCCl | CH2Cl2
solvent | ethyl ether | 25 cm3 | C(C)OCC | C4H10O
solvent | triethylamine | 0.15 cm3 | C(C)N(CC)CC | C6H15N
product | (3aR,7R,7aR)-7-chloro-2-[(2-dimethylamino-phenyl)acetyl]-4,4-diphenylperhydroisoindole hydrochloride | 0.14 g | Cl.Cl[C@@H]1CCC([C@@H]2CN(C[C@H]12)C(CC1=C(C=CC=C1)N(C)C)=O)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H33ClN2O.ClH/c1-32(2)28-16-10-9-11-22(28)19-29(34)33-20-25-26(21-33)30(18-17-27(25)31,23-12-5-3-6-13-23)24-14-7-4-8-15-24;/h3-16,25-27H,17-21H2,1-2H3;1H/t25-,26+,27+;/m0./s1
